US04351838
A Grignard reagent is prepared from 14.0 g 4-chloro-N-methylpiperidine and 2.6 g magnesium in 200 ml boiling tetrahydrofuran. After cooling, a solution of 10.0 g 6-chloro-2,2-dimethyl-indanone in 50 ml tetrahydrofuran is added dropwise at 5°-10°, and the reaction mixture is refluxed for 6 hours. After cooling, a 10% aqueous solution of ammonium chloride is added and the mixture is extracted with toluene. The toluene phase is dried and evaporated, to give 6-chloro-2,2-dimethyl-1-(1-methyl-4-piperidinyl)indan-1-ol (m.p. 181°-182°).

reactant | 4-chloro-N-methylpiperidine | 14.0 g | ClC1CCN(CC1)C | C6H12ClN
reactant | magnesium | 2.6 g | [Mg] | Mg
reactant | 6-chloro-2,2-dimethyl-indanone | 10.0 g | ClC1=CC=C2CC(C(C2=C1)=O)(C)C | C11H11ClO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 6-chloro-2,2-dimethyl-1-(1-methyl-4-piperidinyl)indan-1-ol | ClC1=CC=C2CC(C(C2=C1)(O)C1CCN(CC1)C)(C)C | C17H24ClNO
